US08604061B2
In analogy to example 1b (S)-2-amino-4-(3,4-dichloro-phenyl)-pentan-1-ol was reacted with cyanogen bromide to give (5)-4-[2-(3,4-dichloro-phenyl)-propyl]-4,5-dihydro-oxazol-2-ylamine (mainly one epimer). Colourless oil. MS (ISP): 277.1 ([{37Cl}M+H]+), 275.0 ([{37Cl35Cl}M+H]+), 273.1 ([{35Cl}M+H]+).

reactant | (S)-2-amino-4-(3,4-dichloro-phenyl)-pentan-1-ol | N[C@H](CO)CC(C)C1=CC(=C(C=C1)Cl)Cl | C11H15Cl2NO
reactant | cyanogen bromide | N#CBr | CBrN
product | (5)-4-[2-(3,4-dichloro-phenyl)-propyl]-4,5-dihydro-oxazol-2-ylamine | ClC=1C=C(C=CC1Cl)C(C[C@@H]1N=C(OC1)N)C | C12H14Cl2N2O
